US07576094B2
A mixture of 1 g of 6-hydroxy-5,7-dimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one and 0.91 g of hydroxylamine hydrochloride was dissolved in 5 mL of MeOH by way of brief heating. After all solids had dissolved, the solution was sealed in a microwave reaction vial and placed in a microwave reactor for 25 min at 125° C. The reaction was cooled to room temperature, added to H2O and extracted with EtOAc, washed with brine and dried over Na2SO4. Evaporation of solvent yielded 1.05 g of 6-hydroxy-5,7-dimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one oxime as a pale yellow solid.

reactant | 6-hydroxy-5,7-dimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one | 1 g | OC=1C(=C2C(CC3(CCC3)OC2=CC1C)=O)C | C14H16O3
reactant | hydroxylamine hydrochloride | 0.91 g | Cl.NO
reactant | H2O | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
product | 6-hydroxy-5,7-dimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one oxime | 1.05 g | OC=1C(=C2C(CC3(CCC3)OC2=CC1C)=NO)C | C14H17NO3
